US08071592B2
4-Methyl-2-{[(1-{2-[6-(methyloxy)-3-oxopyrido[2,3-b]pyrazin-4(3H)-yl]ethyl}-4-piperidinyl)amino]methyl}-5,6-dihydropyrido[2,3-d]pyrimidin-7(1H)-one Hydrochloride
To a solution of 4-[2-(4-amino-1-piperidinyl)ethyl]-6-(methyloxy)pyrido[2,3-b]pyrazin-3(4H)-one hydrochloride (0.097 g, 0.287 mmol) in 1:1 MeOH/DCM (16 mL) was added 4-methyl-7-oxo-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidine-2-carbaldehyde (0.064 g, 0.287 mmol), NaHCO3 (0.12 g, 1.44 mmol) and excess Na2SO4. The solution was stirred at ambient temperature for 16 h followed by the addition of NaBH(OAc)3 (0.182 g, 0.861 mmol). The resulting solution was stirred for an additional 2 h, then concentrated onto silica gel and the crude residue was purified by column chromatography (silica gel) using a DCM/DCM-MeOH—NH4OH (90:10:1) gradient to yield the free base of the desired product as a yellowish oily film (0.072 g, 53%).

reactant | 4-[2-(4-amino-1-piperidinyl)ethyl]-6-(methyloxy)pyrido[2,3-b]pyrazin-3(4H)-one hydrochloride | 0.287 mmol, 0.097 g | Cl.NC1CCN(CC1)CCN1C2=C(N=CC1=O)C=CC(=N2)OC
reactant | 4-methyl-7-oxo-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidine-2-carbaldehyde | 0.287 mmol, 0.064 g | CC=1C2=C(N=C(N1)C=O)NC(CC2)=O | C9H9N3O2
reactant | NaHCO3 | 1.44 mmol, 0.12 g | C(=O)(O)[O-].[Na+]
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | NaBH(OAc)3 | 0.861 mmol, 0.182 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | MeOH DCM | 16 mL | CO.C(Cl)Cl
product | 4-Methyl-2-{[(1-{2-[6-(methyloxy)-3-oxopyrido[2,3-b]pyrazin-4(3H)-yl]ethyl}-4-piperidinyl)amino]methyl}-5,6-dihydropyrido[2,3-d]pyrimidin-7(1H)-one Hydrochloride | Cl.CC1=C2C(NC(=N1)CNC1CCN(CC1)CCN1C3=C(N=CC1=O)C=CC(=N3)OC)=NC(CC2)=O | InChI=1S/C24H30N8O3.ClH/c1-15-17-3-5-20(33)29-23(17)28-19(27-15)13-25-16-7-9-31(10-8-16)11-12-32-22(34)14-26-18-4-6-21(35-2)30-24(18)32;/h4,6,14,16,25H,3,5,7-13H2,1-2H3,(H,27,28,29,33);1H
